US08138197B2
Methyl 3-benzyloxy-5-(tetrazol-5-yl)benzoate
Sodium azide (1.5 g) and triethylamine hydrochloride (3.2 g) were added to a DMF (70 mL) solution of methyl 3-cyano-5-benzyloxybenzoate (2.07 g), and stirred at 100° C. for 6 hours and then overnight at room temperature. With cooling with ice, diluted hydrochloric acid was added to it, the precipitate was taken out through filtration, washed with water, and dried to obtain the title compound as a white powder.

reactant | Sodium azide | 1.5 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 3.2 g | Cl.C(C)N(CC)CC
reactant | methyl 3-cyano-5-benzyloxybenzoate | 2.07 g | C(#N)C=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C16H13NO3
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | Methyl 3-benzyloxy-5-(tetrazol-5-yl)benzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C16H14N4O3
